US05563136
N-{(3-Nitrophenyl)methyl}hydroxylamine can be obtained in the following manner: 3.78 g of sodium cyanoborohydride are added in portions in the course of two hours at a temperature near to 25° C. to a solution of 5 g of 3-nitrobenzaldoxime in 120 cm3 of acetic acid. The reaction mixture is stirred for 16 hours at a temperature near to 25° C., and then poured into a mixture of 500 cm3 of ethyl acetate and 150 cm3 of a 30% aqueous solution of potassium hydroxide. The organic phase is separated by decantation and the aqueous phase is extracted with three times 500 cm3 of ethyl acetate. The organic phases are combined, dried over magnesium sulphate and concentrated under reduced pressure. The residue is purified by chromatography on 200 cm3 of silica [eluent dichloromethane/methanol (98:2 by volume)]. The fractions containing the expected product are combined and concentrated under reduced pressure. 3.43 g of N-{(3-nitrophenyl)methyl}hydroxylamine are thus obtained in the form of an oil which is used as such in the subsequent syntheses.

reactant | sodium cyanoborohydride | 3.78 g | C(#N)[BH3-].[Na+]
reactant | 3-nitrobenzaldoxime | 5 g | [N+](=O)([O-])C=1C=C(C=NO)C=CC1 | C7H6N2O3
reactant | ethyl acetate | 500 cm3 | C(C)(=O)OCC | C4H8O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | acetic acid | 120 cm3 | C(C)(=O)O | C2H4O2
product | N-{(3-nitrophenyl)methyl}hydroxylamine | 3.43 g | [N+](=O)([O-])C=1C=C(C=CC1)CNO | C7H8N2O3
